US04018802
Step D. Preparation of 8-methylsulfonyl-12-hydroxy-10-heptadecenoic acid
This compound is prepared by the procedure of Example 3, Step E, except that the methyl 8-methylsulfonyl-12-acetoxyheptadecanoate is replaced by an equivalent quantity of methyl 8-methylsulfonyl-12-acetoxy-10-heptadecenoate.

reactant | methyl 8-methylsulfonyl-12-acetoxyheptadecanoate | CS(=O)(=O)C(CCCCCCC(=O)OC)CCCC(CCCCC)OC(C)=O | C21H40O6S
reactant | methyl 8-methylsulfonyl-12-acetoxy-10-heptadecenoate | CS(=O)(=O)C(CCCCCCC(=O)OC)CC=CC(CCCCC)OC(C)=O | C21H38O6S
product | 8-methylsulfonyl-12-hydroxy-10-heptadecenoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CC=CC(CCCCC)O | C18H34O5S
